US04072689
4-Carbamoyl-5-methyl-2-phenyloxazole
9.4 Grams (0.0425 mole) of 5-methyl-2-phenyl-4-oxazolecarboxylic acid chloride is added in small portions to 200 ml. (3.33 mole) of concentrated ammonium hydroxide. The mixture is vigorously stirred and the temperature is maintained at about 0° during the addition step. After the addition, the temperature is allowed to rise to room temperature and the mixture is left standing overnight. The solid which forms is collected by filtration, washed with water, dried and recrystallized from methanol. 6.35 Grams of the title product is obtained; m.p. 154°-157° (from methanol).

reactant | 5-methyl-2-phenyl-4-oxazolecarboxylic acid chloride | 0.0425 mole | CC1=C(N=C(O1)C1=CC=CC=C1)C(=O)Cl | C11H8ClNO2
reactant | ammonium hydroxide | 3.33 mole | [OH-].[NH4+]
product | 4-Carbamoyl-5-methyl-2-phenyloxazole | C(N)(=O)C=1N=C(OC1C)C1=CC=CC=C1 | C11H10N2O2
